Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Depression with active suicidal ideation
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
 History was noted from Dr. ___ consult note from ___, and subsequent psychiatry CL notes
in OMR, confirmed with patient and updated as relevant:

Briefly, ___ is a ___ year old woman with a history
of depression, anxiety and past suicide attempt ___ via pill
ingestion), who presented to ___ ___ with increasing suicidal
ideation with plan in the setting of multiple psychosocial
stressors.

The patient presented after telling a friend she was 
experiencing
active suicidal ideation with plan. On the evening of ___ 
the
patient planned to jump from a bridge and into traffic but
stopped herself. The friend notified the school's counseling
center.

On initial interview on the unit the patient reports struggling
with anxiety and depression for years with one past suicide
attempt (last year via pills which led to admission to
psychiatric unit). These symptoms have worsened since starting
college (current freshman at ___ where she
studies acting. The patient moved to ___ from her home in
___ for her studies) due to psychosocial stressors mainly
centered on interpersonal issues with her fellow classmates as
well as a romantic breakup.

She reports that her usual depressive symptoms include low mood,
insomnia (also related to anxiety), poor appetite, and decreased
concentration and energy. She also reports symptoms consistent
with anxiety such as racing thoughts (especially at night). She
denies symptoms consistent with mania (elevated mood,
grandiosity, decreased need for sleep) or psychosis
(hallucinations or delusions).

On arrival to the unit she denied suicidal ideation (passive or
active) as well as thoughts of self-harm.
  
Psych ROS: As per HPI. Patient currently denies suicidal 
ideation
or thoughts of self-harm.

___ Course: The patient was calm and cooperative in the ___ and 
did
not require restraints.

 
Past Medical History:
Past psychiatric history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
- Hospitalizations: 1 hospitalization in ___ (possibly ___
during senior year of HS after OD. 
- Current treaters and treatment:
-- Psychiatrist: Dr. ___ ___ - sees him 2x per
year.
-- Psychology intern, ___ at ___ (started ___
-- Medication and ECT trials: Prozac 40 mg daily and Ativan 
0.5mg
daily.
-- Self-injury: OD on rx parent's meds in ___. No cutting or
burning behaviors
-- Harm to others: Denies
-- Access to weapons: Denies
  
Past medical history: No reported history.

 
Social History:
___
Family History:
Family psychiatric history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
- Depression in both parents.
 
Physical Exam:
Exam:
  Neurological:
     *Station and gait: normal station and gait
     *Tone and strength: moves all four extremities 
spontaneously
against gravity
      Movements: no adventitious movements noted
             

  Mental status: 
   *Appearance: Well groomed, young, thin, Caucasian woman in no
acute distress.
    Behavior: Cooperative with interview. Makes good eye 
contact.
   *Mood and Affect: "Good" / Appears largely euthymic, bright 
and smiling   *Thought process: Linear, goal-oriented
   *Thought Content: Denies SI/HI/AVH
   *Judgment and Insight: Good/ Good
   
  Cognitive:
     *Attention, *orientation, and executive function: Attentive
 to interview, oriented to context and history
     *Memory: Intact to history
     *Fund of knowledge: Appropriate
     *Speech: Regular rate, rhythm, and volume.
     *Language: Fluent ___
 
Pertinent Results:
Chemistry 
 ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase 
TotBili DirBili 
___ 05:35AM    12 17     78   0.2   Import Result 

 
 PITUITARY ___ 
___ 05:35AM    1.6 Import Result 

 
 
 
 

 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout her admission. They were placed on 15 minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted.

2. PSYCHIATRIC:
#) Patient was diagnosed with an episode of Major depressive 
disorder, and fluoxetine 40mg qD was restarted, as the patient 
reported non-compliance prior to her admission with her 
long-term fluoxetine regimen. Importance of compliance with 
medication was discussed with the patient and her father, both 
of whom expressed understanding and agreement with the treatment 
plan.

3. SUBSTANCE USE DISORDERS:
#)Ethanol use was discussed with patient and her father and they 
agreed on the importance of abstinence, as the patient 
understood how ethanol can lead to disregulated emotions and 
behaviors. She stated she did occasionally binge at college 
parties but denied drinking alone, stated she would not engage 
in ethanol use while at home in ___ during the rest of the 
___ semester, prior to returning to ___ for college in the 
___.

4. MEDICAL
#) TSH normal.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient’s primary team met with them daily and various 
psychotherapeutic modalities were utilized during those times. 
In particular, the patient was encouraged to attend AA groups, 
which the patient found helpful. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT

#) INTERVENTIONS
- Medications: Fluoxetine 40mg qD
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Appointments made with existing 
outpatient providers, psychiatry and therapy, in ___
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
encouraged med compliance, coping skill development, 
participation in social activity that the patient finds 
supportive, especially with regards to her strongly-identified 
bisexual orientation and her statement that LGBTQ groups were a 
supportive element in her life.

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
active suicidal ideation.  Their static factors noted at that 
time include  a history of a suicide attempt as a senior in high 
school in ___, history of recurrent major depression, history 
of ethanol abuse, Caucasian race, LGBT identity. The modifiable 
risk factors of ethanol use and intermittent social supports 
were also addressed at that time as the patient was counseled on 
EtOH avoidance, expressing understanding and agreement, advised 
to consider attending AA support groups, and encouraged to 
develop further her friendship circles of supportive friends 
that are accepting of her LGBTQ identity.  Finally, the patient 
is being discharged with many protective risk factors, family 
involvement, education, strong insight and developed coping 
skills, help seeking, therapeutic alliance, existing psychiatric 
and psychotherapeutic treaters, support from school.  Overall, 
Based on the totality of our assessment at this time, the 
patient is not at an acutely elevated risk of self-harm nor 
danger to others. 

Our Prognosis of this patient is optimistic; patient shows 
self-awareness and developed coping skills; likely to do well on 
SSRI with compliance and off EtOH.

MODIFIABLE RISK FACTORS
**suicidal ideation with/intent/plan, , medication 
noncompliance, social withdrawal, limited social supports, 
limited coping skills, poor reality testing, no established  
insomnia,  active substance abuse/intoxication, recent academic 
difficulty. 

PROTECTIVE RISK FACTORS
 ***help-seeking nature, future-oriented viewpoint, sense of 
responsibility to family, life satisfaction, reality testing 
ability, good coping skills, good problem-solving skills, 
positive therapeutic relationship with outpatient providers, 
lack of suicidal ideation at time of discharge, no history of 
substance use disorder, no history of abuse, ability to tolerate 
rejection, and strong social supports.  Thus, I feel the patient 
does not meet section 12a criteria for risk of harm to 
self/others and is safe for discharge with planned supports and 
follow-up. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluoxetine 40 mg PO DAILY 

 
Discharge Medications:
1. Fluoxetine 40 mg PO DAILY 
RX *fluoxetine 40 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*2

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder

 
Discharge Condition:
Reports no current suicidal thoughts, no auditory or visual 
hallucinations. Oriented to person, place, and time. 

 
Discharge Instructions:
DISCHARGE WORKSHEET

Discharge Instructions:
You were hospitalized at ___ for major depressive disorder 
with active suicidal risk.  We adjusted your medications, and 
you are now ready for discharge and continued treatment in 
partial program.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health ___ providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

Optional Instructions:
We strongly recommend considering engaging in AA meetings 
for ongoing help with sobriety.
Here is a website with links to meetings near your area:
___
 
Followup Instructions:
___